US05856274
A solution of sodium nitrite (7.3 g) in concentrated sulphuric acid was added to a stirred cooled solution of 4-bromo-2-fluoro-3-trifluoromethylaniline (27.4 g) in glacial acetic acid while maintaining the temperature below 15° C. The mixture was stirred at 10°-15° C. for one and a half hours then poured into a mixture of copper (I) chloride (10.5 g) in hydrochloric acid (5M). The mixture was stirred for one and a half hours then diluted with water, extracted with ether, washed with aqueous sodium hydroxide solution (2M), water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was distilled to give 6-bromo-3-chloro-2-fluorobenzotrifluoride (8.3 g) as a yellow oil b.p. 44°-45° C./2 mbar.

reactant | sodium nitrite | 7.3 g | N(=O)[O-].[Na+]
reactant | 4-bromo-2-fluoro-3-trifluoromethylaniline | 27.4 g | BrC1=C(C(=C(N)C=C1)F)C(F)(F)F | C7H4BrF4N
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | copper (I) chloride | 10.5 g | [Cu]Cl
product | 6-bromo-3-chloro-2-fluorobenzotrifluoride | 8.3 g | BrC1=CC=C(C(=C1C(F)(F)F)F)Cl | C7H2BrClF4
